US07087579B2
To a solution of ethyl diethylphosphonoacetate (4.4 mL) in tetrahydrofuran (40 mL) was added sodium hydride (60%, 0.88 g) at 0° C., and the mixture was stirred for 10 minutes. To the reaction mixture was added a solution of terephthalaldehyde mono-(diethyl acetal) (4.2 g) in tetrahydrofuran (10 mL), and the mixture was stirred at room temperature for 1.5 hours. To the reaction mixture were added a saturated aqueous ammonium chloride solution and water, and the mixture was extracted with diethyl ether. The organic layer was washed with water and dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: hexane/ethyl acetate=3/1) to give ethyl 4-(diethoxymethyl)cinnamate (5.8 g). To a solution of the obtained ethyl 4-(diethoxymethyl)cinnamate (5.8 g) in tetrahydrofuran (50 mL) was added 5% platinum on carbon powder (0.58 g), and the mixture was stirred at room temperature under a hydrogen atmosphere for 10 hours. Insoluble materials was removed by filtration, and the filtrate was concentrated under reduced pressure. A solution of the residue in tetrahydrofuran (20 mL) was added to a suspension of lithium aluminum hydride (1.1 g) in tetrahydrofuran (100 mL) at 0° C. The reaction mixture was heated at 70° C. and stirred for 40 minutes. After the reaction mixture was cooled to 0° C., water (1.1 mL), 15% aqueous sodium hydroxide solution (1.1 mL) and water (3.3 mL) were added, and the mixture was stirred at room temperature for 10 minutes. Insoluble materials were removed by filtration, and the solvent of the filtrate was removed under reduced pressure to give 4-(3-hydroxypropyl)benzaldehyde diethyl acetal (4.7 g). To a solution of the obtained 4-(3-hydroxypropyl)benzaldehyde diethyl acetal (4.7 g) in dimethylformamide (100 mL) was added sodium hydride (60%, 1.2 g) at 0° C., and the mixture was stirred for 5 minutes. To the reaction mixture was added benzyl bromide (2.5 mL), and the mixture was stirred at room temperature for 72 hours. Water was added to the reaction mixture, and the mixture was extracted with hexane. The organic layer was washed with water and dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure to give 4-[3-(benzyloxy)propyl]benzaldehyde diethyl acetal (6.4 g). To a solution of the obtained 4-[3-(benzyloxy)propyl]benzaldehyde diethyl acetal (6.4 g) in tetrahydrofuran (60 mL) was added 2 mol/L hydrochloric acid solution (10 mL) at 0° C., and the mixture was stirred for 1 hour. To the reaction mixture was added water, and the mixture was extracted with diethyl ether. The organic layer was washed with a saturated aqueous sodium hydrogen carbonate solution and dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The residue was dissolved in ethanol (50 mL), and to the solution was added sodium borohydride (1.1 g) at 0° C. The mixture was stirred for 14 hours while gradually returning to room temperature. To the reaction mixture was added methanol, and the mixture was concentrated under reduced pressure. To the residue was added ethyl acetate, and the mixture was washed with water and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: hexane/ethyl acetate=3/1-2/1) to give 4-[3-(benzyloxy)propyl]benzyl alcohol (3.7 g).

reactant | 4-(3-hydroxypropyl)benzaldehyde diethyl acetal | 4.7 g | C(C)OC(C1=CC=C(C=C1)CCCO)OCC | C14H22O3
reactant | sodium hydride | 1.2 g | [H-].[Na+]
reactant | benzyl bromide | 2.5 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | Water | O | H2O
solvent | dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | 4-[3-(benzyloxy)propyl]benzaldehyde diethyl acetal | 6.4 g | C(C)OC(C1=CC=C(C=C1)CCCOCC1=CC=CC=C1)OCC | C21H28O3
